US09382188B2
D) 2-chloro-3-(2-fluoro-5-methoxyphenyl)-6-methoxypyridine
Under an argon atmosphere, to a solution of 3-bromo-2-chloro-6-methoxypyridine (4.61 g) in toluene (60 mL) were added (2-fluoro-5-methoxyphenyl)boronic acid (3.52 g), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II)dichlorome thane adduct (1.69 g) and 2.0 M aqueous sodium carbonate solution (31.1 mL), and the mixture was stirred at 80° C. for 1 hr. Water was added at room temperature, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.06 g) as a white amorphous solid.

reactant | 3-bromo-2-chloro-6-methoxypyridine | 4.61 g | BrC=1C(=NC(=CC1)OC)Cl | C6H5BrClNO
reactant | (2-fluoro-5-methoxyphenyl)boronic acid | 3.52 g | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 2.0 M, 31.1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-3-(2-fluoro-5-methoxyphenyl)-6-methoxypyridine | 4.06 g | ClC1=NC(=CC=C1C1=C(C=CC(=C1)OC)F)OC | C13H11ClFNO2
